US07780953B2
3) 18-[(4-{[(2-amino-4-oxo-3,4-dihydro-6-pteridinyl)methyl]amino}benzoyl)amino]-1-({2-[(35-amino-3,6,9,12,15,18,21,24,27,30,33-undecaoxapentatriacont-1-yl)amino]-3,4-dioxo-1-cyclobuten-1-yl}amino)-15-oxo-4,7,10-trioxa-14-azanonadecan-19-oic acid
0.3 g of 18-[(4-{[(2-amino-4-oxo-3,4-dihydro-6-pteridinyl)methyl]amino}benzoyl)amino]-1-({2-[(39,39-dimethyl-37-oxo-3,6,9,12,15,18,21,24,27,30,33,38-dodecaoxa-36-azatetracont-1-yl)amino]-3,4-dioxo-1-cyclobuten-1-yl}amino)-15-oxo-4,7,10-trioxa-14-azanonadecan-19-oic acid is solubilized in 0.3 ml of trifluoroacetic acid.

reactant | 18-[(4-{[(2-amino-4-oxo-3,4-dihydro-6-pteridinyl)methyl]amino}benzoyl)amino]-1-({2-[(39,39-dimethyl-37-oxo-3,6,9,12,15,18,21,24,27,30,33,38-dodecaoxa-36-azatetracont-1-yl)amino]-3,4-dioxo-1-cyclobuten-1-yl}amino)-15-oxo-4,7,10-trioxa-14-azanonadecan-19-oic acid | 0.3 g | NC1=NC2=NC=C(N=C2C(N1)=O)CNC1=CC=C(C(=O)NC(CCC(NCCCOCCOCCOCCCNC2=C(C(C2=O)=O)NCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCNC(OC(C)(C)C)=O)=O)C(=O)O)C=C1 | C62H99N11O23
solvent | trifluoroacetic acid | 0.3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 18-[(4-{[(2-amino-4-oxo-3,4-dihydro-6-pteridinyl)methyl]amino}benzoyl)amino]-1-({2-[(35-amino-3,6,9,12,15,18,21,24,27,30,33-undecaoxapentatriacont-1-yl)amino]-3,4-dioxo-1-cyclobuten-1-yl}amino)-15-oxo-4,7,10-trioxa-14-azanonadecan-19-oic acid | NC1=NC2=NC=C(N=C2C(N1)=O)CNC1=CC=C(C(=O)NC(CCC(NCCCOCCOCCOCCCNC2=C(C(C2=O)=O)NCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCN)=O)C(=O)O)C=C1 | C57H91N11O21
